US06455520B1
Using an analogous procedure to that described in the first paragraph of Example 26, 3-(1-tert-butoxycarbonylpiperidin-4-yloxy)-4-methoxybenzoic acid was reacted with N-(3-amino4-methylphenyl)-2-morpholinopyridine-4-carboxamide to give N-{3-[3-(1-tert-butoxycarbonylpiperidin-4-yloxy)4-methoxybenzamido]-4-methylphenyl}-2-morpholinopyridine-4-carboxamide; NMR Spectrum: (DMSOd6) 1.38 (s, 9H), 1.72 (m, 2H), 1.85 (m, 2H), 2.21 (s, 3H), 3.15 (m, 2H), 3.5 (t, 4H), 3.76 (m, 6H), 3.83 (s, 1H), 4.41 (m, 1H), 6.84 (d, 1H), 6.87 (d, 1H), 7.01 (s, 1H), 7.16 (d, 1H), 7.37 (m, 1H), 7.44 (d, 1H), 7.57 (m, 2H), 8.03 (d, 1H), 8.21 (d, 1H), 9.8 (s, 1H), 10.22 (s, 1H); Mass Spectrum: M+H+ 646.

reactant | 3-(1-tert-butoxycarbonylpiperidin-4-yloxy)-4-methoxybenzoic acid | C(C)(C)(C)OC(=O)N1CCC(CC1)OC=1C=C(C(=O)O)C=CC1OC | C18H25NO6
reactant | N-(3-amino4-methylphenyl)-2-morpholinopyridine-4-carboxamide | NC=1C=C(C=CC1C)NC(=O)C1=CC(=NC=C1)N1CCOCC1 | C17H20N4O2
product | N-{3-[3-(1-tert-butoxycarbonylpiperidin-4-yloxy)4-methoxybenzamido]-4-methylphenyl}-2-morpholinopyridine-4-carboxamide | C(C)(C)(C)OC(=O)N1CCC(CC1)OC=1C=C(C(=O)NC=2C=C(C=CC2C)NC(=O)C2=CC(=NC=C2)N2CCOCC2)C=CC1OC | C35H43N5O7
